US07538102B2
A mixrue of 4-chlorotetrahydro-2H-pyran (1 g, 8.29 mmol) and potassium ethanethioate (0.947 g, 8.29 mmol) in DMF (15 mL) was stirred at 80° C. for 24 h. The reaction mixture was cooled down and partitioned between hexane and cold 1N Na OH. The organic layer was washed with brine, dried (MgSO4), removed the solvent to afford S-tetrahydro-2H-pyran-4-yl ethanethioate as a pale brown oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.68 (2 H, m), 1.90 (2 H, m), 2.32 (3 H, s), 3.55 (2 H, m), 3.68 (1 H, m), 3.91 (2 H, dt, J=11.83, 3.90 Hz). Into a solution of S-tetrahydro-2H-pyran-4-yl ethanethioate in DCm (3 mL) and water (3 mL) at −10° C., chlorine gas was bubbled for ˜5 min slowly until persistent greenish color was maintained. The mixture was stirred for 0.5 h at r.t. and blown with air for 5 min and diluted with ether (5 mL). The mixture was added to concentrated ammonium hydroxide (5mL, 128 mmol) at 0° C. over 10 min. The mixture was stirred for 1 h and evaporated to dryness. The residue was taken up with EtOAc and filtered through 2″ silica gel pad and eluted with EtOAc/hexane (80% to 100%) to afford tetrahydro-2H-pyran-4-sulfonamide as a brown solid (113 mg). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.88 (2 H, m), 2.08 (2 H, ddd, J=12.72, 3.65, 1.76 Hz), 3.15 (1 H, tt, J=12.06, 3.81 Hz), 3.40 (2 H, td, J=11.96, 2.27 Hz), 4.11 (2 H, dd, J=11.33, 4.28 Hz), 4.48 (2 H, br. s.).

reactant | 4-chlorotetrahydro-2H-pyran | 8.29 mmol, 1 g | ClC1CCOCC1 | C5H9ClO
reactant | potassium ethanethioate | 8.29 mmol, 0.947 g | C(C)([O-])=S.[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | S-tetrahydro-2H-pyran-4-yl ethanethioate | C(C)(SC1CCOCC1)=O | C7H12O2S
